US05019597
Preparation of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-tricyclo[3.3.1.13,7 ]dec-2-yl propanamide
Following the procedure of Example 4, triethylamine (0.5 ml) was added to a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (1.19 g, 0.005 mole) and the N-tricyclo[3.3.1.13,7 ]dec-2-yl-2-propenamide (1.02 g, 0.005 mole) in methanol (100 ml) and the solution stirred ar room temperature for 12 hours. The solvent and triethylamine were removed on a rotary evaporator and the product purified by chromatography on silica, recrystallized from ethyl acetate/ethyl ether/hexane and dried, m.p. ca. 155.5°-156° C. Analysis calc. for C27H41NO2S(443.69): Calc.: C, 73.09; H, 9.31; N, 3.16; S, 7.35. Found: C, 73.18; H, 9.23; N, 3.09; S, 7.21.

reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.005 mole, 1.19 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N-tricyclo[3.3.1.13,7 ]dec-2-yl-2-propenamide | 0.005 mole, 1.02 g | C12C(C3CC(CC(C1)C3)C2)NC(C=C)=O | C13H19NO
solvent | methanol | 100 ml | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-tricyclo[3.3.1.13,7 ]dec-2-yl propanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NC1C2CC3CC(CC1C3)C2 | C27H41NO2S
